US08664220B2
Step 1: 1-(4′-{4-[6-(3-Chloro-phenyl)-pyridin-2-ylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using 1-{4′-[4-(6-bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and 3-chlorophenylboronic acid.

reactant | 1-{4′-[4-(6-bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)Br | C27H24BrN3O3
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 1-(4′-{4-[6-(3-Chloro-phenyl)-pyridin-2-ylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C33H28ClN3O3
